US06610677B2
(5-Cyclopropyl-2H-pyrazol-3-yl)-[2-(4-methylpiperidin-1-yl)-quinazolin-4-yl]-amine (III-111)
To a solution of (5-cyclopropyl-1H-pyrazol-3-yl)-(2-chloro-quinazolin-4-yl)-amine (118 mg, 0.41 mmol) in tert-butanol (3.0 mL) was added 4-methylpiperidine (0.49 mL, 4.1 mmol) and the reaction mixture heated at reflux overnight. The reaction mixture was concentrated in vacuo and the residue dissolved in a mixture EtOH:water (1:3, 4 mL). Potassium carbonate (57 mg, 0.41 mmol) was added and the mixture stirred at room temperature for 2 hours. The resulting suspension was filtered, washed with water (×2), and rinsed with Et2O (×2) to afford III-111 as a white solid (123 mg, 85%): mp 190° C.; 1H NMR (DMSO) δ0.66 (2H, s), 0.93 (5H, br s), 1.07 (2H, d), 1.66 (3H, s), 1.91 (1H, s), 2.85 (2H, t), 4.72 (2H, d), 6.33 (1H, s), 7.06 (1H, t), 7.29 (1H, d), 7.52 (1H, t), 8.31 (1H, d), 9.95 (1H, s), 12.18 (1H, br s); IR (solid) 2925, 2852, 1622, 1590, 1581, 1558, 1494, 1481, 1453, 1435, 1394; MS 349.2 (M+H)+.

reactant | (5-cyclopropyl-1H-pyrazol-3-yl)-(2-chloro-quinazolin-4-yl)-amine | 0.41 mmol, 118 mg | C1(CC1)C1=CC(=NN1)NC1=NC(=NC2=CC=CC=C12)Cl | C14H12ClN5
reactant | 4-methylpiperidine | 4.1 mmol, 0.49 mL | CC1CCNCC1 | C6H13N
reactant | Potassium carbonate | 0.41 mmol, 57 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tert-butanol | 3.0 mL | C(C)(C)(C)O | C4H10O
product | (5-Cyclopropyl-2H-pyrazol-3-yl)-[2-(4-methylpiperidin-1-yl)-quinazolin-4-yl]-amine | 123 mg, 85% | C1(CC1)C=1C=C(NN1)NC1=NC(=NC2=CC=CC=C12)N1CCC(CC1)C | C20H24N6
